US07153855B2
A mixture of 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (150 mg, 0.36 mmol) and 4-(2-aminoethyl)morpholine (3 mL, 21.2 mmol) was heated at 140° C. for 4 hours. Concentration of the reaction mixture followed by flash chromatography (3:1 ethyl acetate-hexane to ethyl acetate) provided 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)-N-[2-(4-morpholinyl)ethyl]pyrazolo[1,5-a]pyridin-7-amine (135 mg, 74%) as a pale yellow foam. 1H NMR (CDCl3): δ 8.01 (d, 1 H), 7.78 (d, 1 H), 7.61 (d, 2 H), 7.30 (t, 1 H), 6.99 (d, 2 H), 6.52 (t, 1 H), 6.36 (d, 1 H), 5.98 (d, 1 H), 5.08 (d, 1 H), 4.37 (m, 1 H), 3.88 (s, 3 H), 3.76 (m, 4 H), 3.46 (q, 2 H), 2.76 (t, 2 H), 2.54 (m, 4 H), 2.12–1.52 (m, 8 H); MS m/z 514 (M+1).

reactant | 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.36 mmol, 150 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C23H22ClN5O
reactant | 4-(2-aminoethyl)morpholine | 21.2 mmol, 3 mL | NCCN1CCOCC1 | C6H14N2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)-N-[2-(4-morpholinyl)ethyl]pyrazolo[1,5-a]pyridin-7-amine | 135 mg, 74% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCN2CCOCC2)C2=CC=C(C=C2)OC | C29H35N7O2
